US03953496
By the procedure similar to that described in Example 12, 3,5-diaminobenzamide was condensed with 2-methoxybenzoylchloride to obtain 3,5-bis(2'-methoxybenzamido)-benzamide having a melting point between 226° - 227°C.

reactant | 3,5-diaminobenzamide | NC=1C=C(C(=O)N)C=C(C1)N | C7H9N3O
reactant | 2-methoxybenzoylchloride | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
product | 3,5-bis(2'-methoxybenzamido)-benzamide | COC1=C(C(=O)NC=2C=C(C(=O)N)C=C(C2)NC(C2=C(C=CC=C2)OC)=O)C=CC=C1 | C23H21N3O5
